US04550204
Preparation of Bis(Salicyloyl)hydrazine in Vaseline
0.5 kg (10 mol) hydrazine hydrate was heated with 3.040 kg (20 mol) salicylic acid methyl ester and 2.714 kg vaseline in a protective gas such as nitrogen or argon in the apparatus according to the invention. The water-methanol mixture produced was continuously distilled-off from the reaction mixture. After about three hours, the reaction temperature had risen to 120° C. and approximately half of the quantity of methanol expected theoretically and the entire amount of water were distilled off (0.5 kg). The hydrazide was present in the vaseline as a crystal product in paste. The heating was continued after 30 g boron trioxide was added and the temperature was kept at 150° C. The remaining methanol (0.320 kg) was distilled off. After about three hours, the reaction was complete as determined by the amount of methanol distilled off.

reactant | hydrazine hydrate | 10 mol, 0.5 kg | O.NN
reactant | salicylic acid methyl ester | 20 mol, 3.040 kg | COC(C=1C(O)=CC=CC1)=O | C8H8O3
reactant | water methanol | O.CO
solvent | methanol | CO | CH4O
product | Bis(Salicyloyl)hydrazine | C(C=1C(O)=CC=CC1)(=O)NNC(C=1C(O)=CC=CC1)=O | C14H12N2O4
